US09120822B2
Copper(I) cyanide (39.3 g, 0.44 mol, 1.2 eq) is added at room temperature to a stirred solution of 8-bromo-7-chloro-2-methoxy-[1,5]naphthyridine (100 g, 0.37 mol, 1.0 eq) in N,N-dimethylformamide (1.5 L). After 8 hours stirring at 130° C., the reaction mixture is cooled down to room temperature and treated with a saturated ammonium chloride aqueous solution (1.5 L). The aqueous layer is separated and extracted with ethyl acetate (2×1.5 L). The combined organic layers are dried over sodium sulfate, filtered and concentrated to give a residue that is washed with ethanol (20 mL) to afford 3-chloro-6-methoxy-[1,5]naphthyridine-4-carbonitrile as an off-white solid (49.5 g, 62% yield).

reactant | Copper(I) cyanide | 0.44 mol, 39.3 g, 1.2 eq | [Cu]C#N
reactant | 8-bromo-7-chloro-2-methoxy-[1,5]naphthyridine | 0.37 mol, 100 g, 1.0 eq | BrC=1C(=CN=C2C=CC(=NC12)OC)Cl | C9H6BrClN2O
reactant | ammonium chloride | 1.5 L | [Cl-].[NH4+]
solvent | N,N-dimethylformamide | 1.5 L | CN(C=O)C | C3H7NO
product | 3-chloro-6-methoxy-[1,5]naphthyridine-4-carbonitrile | 49.5 g, 62% yield | ClC=1C=NC2=CC=C(N=C2C1C#N)OC | C10H6ClN3O
